US06140100
A solution of 1.94 g of 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzyl alcohol in 70 mL of anhydrous CH2Cl2 was treated with 2.05 g of pyridinium chlorochromate (Aldrich) and was stirred at RT under nitrogen. After 30 min, tlc (SiO2, 85:15 hexane:EtOAc) indicated no remaining starting material and a major new component at Rf =0.80. The mixture was filtered to remove solids and the filtrate was washed with 5% aqueous citric acid (4×50 mL) followed by 5% aqueous NaHCO3 (4×50 mL). The CH2Cl2 solution was dried over anhydrous MgSO4 and concentrated in vacuo to give a brown oil. This material was purified by flash chromatography on silica gel (9:1 hexane:EtOAc) to afford 1.52 g (79%) of 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzaldehyde as a clear oil.

reactant | 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzyl alcohol | 1.94 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(CO)C=C1)C1CCCC1 | C18H30O2Si
reactant | pyridinium chlorochromate | 2.05 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | hexane | CCCCCC | C6H14
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzaldehyde | 1.52 g, 79% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=O)C=C1)C1CCCC1 | C18H28O2Si
